US08314097B2
The (3-fluoro-4-methoxyphenyl)acetic acid methyl ester (5.16 g, 26.0 mmol) is dissolved in carbon tetrachloride (300 mL) along with NBS (5.56 g, 31.3 mmol) and benzoyl peroxide (0.63 g, 2.60 mmol) and refluxed for 2 h. The solution is then allowed to cool to room temperature and is filtered. The filtrate is evaporated and the residue purified via flash column chromatography (EtOAc/hexanes 5:95→EtOAc/hexanes 2:8) to give bromo-(3-fluoro-4-methoxyphenyl)acetic acid methyl ester as a yellow oil. 1H NMR (CDCl3) δ 7.37 (d, J=12 Hz, 1H), 7.26-7.23 (m, 1H), 6.93 (t, J=8 Hz, 1H), 5.31 (s, 1H), 3.91 (s, 3H), 3.81 s, 3H).

reactant | (3-fluoro-4-methoxyphenyl)acetic acid methyl ester | 26.0 mmol, 5.16 g | COC(CC1=CC(=C(C=C1)OC)F)=O | C10H11FO3
reactant | NBS | 31.3 mmol, 5.56 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | benzoyl peroxide | 2.60 mmol, 0.63 g | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 300 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | bromo-(3-fluoro-4-methoxyphenyl)acetic acid methyl ester | COC(C(C1=CC(=C(C=C1)OC)F)Br)=O | C10H10BrFO3
